US07247626B2
To a solution of 1-[7-(cyclopentylamino)-2-(4-fluorophenyl)pyrazolo[1,5-c]pyrimidin-3-yl]-3-(dimethylamino)prop-2-en-1-one (160 mg, 0.41 mmol) in N,N-dimethylformamide (10 mL) was added N-cyclopentylguanidine hydrochloride (130 mg, 0.82 mmol). Freshly ground anhydrous potassium carbonate (56 mg, 0.41 mmol) was added and the reaction heated to 140° C. for 4 hours. Additional freshly ground anhydrous potassium carbonate (120 mg, 0.87 mmol) and N-cyclopentylguanidine hydrochloride (75 mg, 0.46 mmol) were added and the reaction heated for additional 3 hours. The reaction was allowed to cool and was stirred at room temperature for 16 hours. The mixture was quenched with water, extracted with ethyl acetate (2×), washed with brine, concentrated, and the residue purified by silica chromatography eluting with 5% acetone in dichloromethane to yield 140 mg (75%) of N-cyclopentyl-3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-fluorophenyl)pyrazolo[1,5-c]pyrimidin-7-amine. 1H NMR (CDCl3): δ 8.09 (d, 1H), 7.80 (d, 1H), 7.66 (dd, 2H), 7.54 (d, 1H), 7.19 (t, 2H), 6.42 (d, 1H), 6.30 (d, 1H), 5.14 (d, 1H), 4.57 (m, 1H), 4.34 (m, 1H), 2.22 (m, 2H), 2.09 (m, 2H), 1.52–1.89 (m, 12H).

reactant | 1-[7-(cyclopentylamino)-2-(4-fluorophenyl)pyrazolo[1,5-c]pyrimidin-3-yl]-3-(dimethylamino)prop-2-en-1-one | 0.41 mmol, 160 mg | C1(CCCC1)NC1=NC=CC=2N1N=C(C2C(C=CN(C)C)=O)C2=CC=C(C=C2)F | C22H24FN5O
reactant | N-cyclopentylguanidine hydrochloride | 0.82 mmol, 130 mg | Cl.C1(CCCC1)NC(=N)N
reactant | potassium carbonate | 0.41 mmol, 56 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 0.87 mmol, 120 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-cyclopentylguanidine hydrochloride | 0.46 mmol, 75 mg | Cl.C1(CCCC1)NC(=N)N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-cyclopentyl-3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-fluorophenyl)pyrazolo[1,5-c]pyrimidin-7-amine | 140 mg, 75% | C1(CCCC1)NC1=NC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)F | C26H28FN7
